US07368458B2
5A. Preparation of 2-Methylene-4-oxo-4-phenylbutanoic acid
To a stirred slurry of benzene (4.50 mL, 50.3 mmol) and itaconic anhydride (5.64 g, 50.3 mmol) in 1,2-dichloroethane at room temperature under argon, was added aluminum chloride (13.42 g, 100.7 mmol) in portions over 30 min A dark green solution formed as the temperature rose to 27° C. before subsiding. After 4 h, the now brown solution was poured rapidly into a stirred mixture of ice (200 g) and concentrated hydrochloric acid (15 mL). The resulting beige solids were filtered and air-dried to give the title compound (4.69 gm, 49%). MS [M+H]+: found 191.

reactant | benzene | 50.3 mmol, 4.50 mL | C1=CC=CC=C1 | C6H6
reactant | itaconic anhydride | 50.3 mmol, 5.64 g | C1(C(=C)CC(=O)O1)=O | C5H4O3
reactant | aluminum chloride | 100.7 mmol, 13.42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-Methylene-4-oxo-4-phenylbutanoic acid | 4.69 gm, 49% | C=C(C(=O)O)CC(C1=CC=CC=C1)=O | C11H10O3
